US05912247
To a solution of 4-[(3-buten-1-yl)oxy]-2-(1-piperazinyl)quinazoline (23.3 g) in dry methylene chloride (200 ml) is added triethylamine (22.9 ml) with stirring under ice-cooling, and thereto is further added dropwise a solution of benzyl chlorocarbonate (12.3 ml) in dry methylene chloride (30 ml). The mixture is stirred under ice-cooling for 5 hours. The reaction mixture is diluted with chloroform, washed with water, and dried over anhydrous magnesium sulfate. The solution is evaporated to dryness under reduced pressure, and the residue is purified by medium pressure liquid column chromatography (eluent, chloroform) to give 2-[4-(benzyloxycarbonyl) piperazin-1-yl]-4-[(3-buten-1-yl)oxy]quinazoline (26.7 g) as crystals.

reactant | 4-[(3-buten-1-yl)oxy]-2-(1-piperazinyl)quinazoline | 23.3 g | C(CC=C)OC1=NC(=NC2=CC=CC=C12)N1CCNCC1 | C16H20N4O
reactant | triethylamine | 22.9 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chlorocarbonate | 12.3 ml | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(benzyloxycarbonyl) piperazin-1-yl]-4-[(3-buten-1-yl)oxy]quinazoline | 26.7 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OCCC=C | C24H26N4O3
